US08034945B2
(d). 3-Bromo-5-(3-cyano-2-methyl-5-oxo-7-propyl-1,4,5,6,7,8-hexahydro-quinolin-4-yl)-2-(3-methoxy-benzyloxy)-benzamide
A mixture of 3-bromo-5-(3-cyano-2-methyl-5-oxo-7-propyl-1,4,5,6,7,8-hexahydro-quinolin-4-yl)-2-(3-methoxy-benzyloxy)-benzoic acid (57 mg), ammonium chloride (18 mg), HATU (57 mg) and N,N-diisopropylethylamine (34 μl) in DMF (0.8 ml) was stirred for 17 h. The mixture was diluted with water and extracted with ethyl acetate.

reactant | 3-bromo-5-(3-cyano-2-methyl-5-oxo-7-propyl-1,4,5,6,7,8-hexahydro-quinolin-4-yl)-2-(3-methoxy-benzyloxy)-benzoic acid | 57 mg | BrC=1C(=C(C(=O)O)C=C(C1)C1C(=C(NC=2CC(CC(C12)=O)CCC)C)C#N)OCC1=CC(=CC=C1)OC | C29H29BrN2O5
reactant | ammonium chloride | 18 mg | [Cl-].[NH4+]
reactant | HATU | 57 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N,N-diisopropylethylamine | 34 μl | C(C)(C)N(C(C)C)CC | C8H19N
solvent | DMF | 0.8 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 3-Bromo-5-(3-cyano-2-methyl-5-oxo-7-propyl-1,4,5,6,7,8-hexahydro-quinolin-4-yl)-2-(3-methoxy-benzyloxy)-benzamide | BrC=1C(=C(C(=O)N)C=C(C1)C1C(=C(NC=2CC(CC(C12)=O)CCC)C)C#N)OCC1=CC(=CC=C1)OC | C29H30BrN3O4
